US07989457B2
(4′-Trifluoromethyl-biphenyl-3-yl)-methanol
The titled compound was prepared by standard NaBH4 reduction of 4′-trifluoromethyl-biphenyl-3-carbaldehyde (quant.). 1NMR (400 MHz, CDCl3) δ ppm: 7.40, 7.70 (m, 8H), 4.79 (s, 2H).

reactant | NaBH4 | [BH4-].[Na+]
reactant | 4′-trifluoromethyl-biphenyl-3-carbaldehyde | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)C=O)(F)F | C14H9F3O
product | (4′-Trifluoromethyl-biphenyl-3-yl)-methanol | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)CO)(F)F | C14H11F3O
